US07696234B2
4-(6-Methyl-pyridin-2-ylmethoxy)-benzoic acid methyl ester
The title compound is prepared in a manner substantially analogous to Procedure E except KI (1.3 eq.) is also added from 4-hydroxy-benzoic acid methyl ester and 2-(chloromethyl)-6-methyl-pyridine hydrochloride [CAS 3099-29-4]. MS (ES+) 258.2

reactant | 4-hydroxy-benzoic acid methyl ester | COC(C1=CC=C(C=C1)O)=O | C8H8O3
reactant | 2-(chloromethyl)-6-methyl-pyridine hydrochloride | Cl.ClCC1=NC(=CC=C1)C
product | 4-(6-Methyl-pyridin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=NC(=CC=C1)C)=O | C15H15NO3
